US05661167
IV. Synthesis of 4-[[4-(2,2,3,3,3-pentafluoro-1-oxopropyl)-3-thiazolidinyl]carbonyl]-3-thiazolidinecarboxylic acid, 1,1-dimethylethyl ester (Scheme I, compound IX)
To a stirred solution of 4-[[4-[(methoxymethylamino)carbonyl]-3-thiazolidinyl]carbonyl]-3-thiazolidine carboxylic acid, 1,1-dimethylethyl ester (compound from Example IIID; 0.33 g, 0.84 mmol) in ethyl ether (30 ml) under argon at -78° C. was added perfluoroethyl iodide (0.32 ml, 2.70 mmol) followed by methyl lithium.lithium bromide (1.57 ml, 2.36 mmol, 1.5M in ethyl ether). TLC indicated the reaction was complete. The reaction was poured into 100 ml ethyl ether containing 25 g silica gel. Residual amounts of product in the flask were dissolved in ethyl ether and added to the silica/ether solution. Subsequently, the organic phase was removed and the silica gel was washed with ethyl ether (2×100 ml). The combined organics were dried over magnesium and sodium sulfate and then filtered and evaporated to give an oily white foam (0.34 g). The material was then flash chromatographed on a 4×10 cm silica gel column eluting with 0.4 liter of ethyl acetate/hexane (30:70) followed by 0.5 liter of ethyl acetate/hexane (75:25). Product containing fractions were combined and concentrated to an oil (49 mg).

reactant | 4-[[4-[(methoxymethylamino)carbonyl]-3-thiazolidinyl]carbonyl]-3-thiazolidine carboxylic acid, 1,1-dimethylethyl ester | 0.84 mmol, 0.33 g | COCNC(=O)C1N(CSC1)C(=O)C1N(CSC1)C(=O)OC(C)(C)C | C15H25N3O5S2
reactant | perfluoroethyl iodide | 2.70 mmol, 0.32 ml | FC(C(F)(F)F)(F)I | C2F5I
reactant | methyl lithium | C[Li]
reactant | lithium bromide | 2.36 mmol, 1.5M, 1.57 ml | [Br-].[Li+]
solvent | ethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 100 ml, 25 g | C(C)OCC | C4H10O
product | 4-[[4-(2,2,3,3,3-pentafluoro-1-oxopropyl)-3-thiazolidinyl]carbonyl]-3-thiazolidinecarboxylic acid, 1,1-dimethylethyl ester | 0.34 g | FC(C(=O)C1N(CSC1)C(=O)C1N(CSC1)C(=O)OC(C)(C)C)(C(F)(F)F)F | C15H19F5N2O4S2
